US07696223B2
e) [(7-Hydroxy-2-pyridin-2-yl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid
A mixture of 7-hydroxy-2-pyridin-2-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (43 mg, 0.14 mmol) and glycine (214 mg, 2.86 mmol) in 0.5 M sodium methoxide/methanol (5.4 mL, 1.29 mmol) was refluxed for 2 days before it was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water and extracted with methyl tert-butyl ether (2×25 mL). The remaining aqueous layer was acidified to pH=3 with 1N HCl (4 mL). The precipitate was filtered, washed with water and dried in vacuo to give the title compound as a white solid (35 mg): 1H NMR (DMSO-d6, 200 MHz): δ=13.16 (br s, 1H), 9.47 (br s, 1H), 8.92 (s, 1H), 8.75 (d, J=4.3 Hz, 1H), 8.32 (d, J=7.8, 1H), 8.05 (m, 1H), 7.65 (m, 1H), 4.03 (d, J=6.3 Hz, 2H); MS: (+) m/z 331.00 (M+1); (−) m/z 329.00 (M−1).

reactant | 7-hydroxy-2-pyridin-2-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.14 mmol, 43 mg | C(C)OC(=O)C1=C(C2=C(C=N1)N=C(S2)C2=NC=CC=C2)O | C14H11N3O3S
reactant | glycine | 2.86 mmol, 214 mg | NCC(=O)O | C2H5NO2
reactant | sodium methoxide methanol | 1.29 mmol, 0.5 M, 5.4 mL | C[O-].[Na+].CO
product | [(7-Hydroxy-2-pyridin-2-yl-thiazolo[4,5-c]pyridine-6-carbonyl)-amino]-acetic acid | 35 mg | OC=1C2=C(C=NC1C(=O)NCC(=O)O)N=C(S2)C2=NC=CC=C2 | C14H10N4O4S
